US06448409B1
N,O-Dimethylhydroxyl-amine hydrochloride (380 mg, 3.90 mmol) and 4-dimethylaminopyridine (244 mg, 2.00 mmol) was added to a solution of (4S)-3-(2,4-dimethyl-3-hydroxyl-1-oxopentyl)-4-(phenylmethyl)-2-oxazolidineselone (616 mg, 2.00 mmol) in CH2Cl2 (10 mL). The resulting solution was stirred at room temperature for 4 days. The solvent was removed under reduced pressure. Purification of the residue by silica gel column chromatography (CH2Cl2/ether; 95/5; v/v) afforded 210 mg (55%) of 3-hydroxy-N-methoxy-N,2,4-trimethyl-pentanamide. 1H NMR δ 3.94 (br s, 1H), 3.72 (s, 3H), 3.45 (dd, 1H, J=8.4 Hz, J=2.1 Hz), 3.21 (s, 3H), 3.10 (br m, 1H), 1.73 (m, 1H), 1.16 (d, 3H, J=7.1 Hz), 1.04 (d, 3H, J=6.6 Hz), 0.88 (d, 3H, J=6.8 Hz); 13C NMR δ 178.48, 76.90, 61.48, 35.72, 31.88, 30.20, 19.16, 18.90, 9.90

reactant | N,O-Dimethylhydroxyl-amine hydrochloride | 3.90 mmol, 380 mg | Cl.CNOC
reactant | (4S)-3-(2,4-dimethyl-3-hydroxyl-1-oxopentyl)-4-(phenylmethyl)-2-oxazolidineselone | 2.00 mmol, 616 mg | CC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=[Se])C(C(C)C)O | C17H23NO3Se
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-N-methoxy-N,2,4-trimethyl-pentanamide | 210 mg, 55% | OC(C(C(=O)N(C)OC)C)C(C)C | C9H19NO3
